US07057059B2
4-t-butyl-1-cyclohexene
20 g 4-t-butyl-1-cyclohexanol are mixed with 17 g KHSO4 and stirred for one week at 95° C. After the addition of ethylacetate KHSO4 is filtered off. Ethylacetate is evaporated and the product obtained by fractional distillation.

reactant | 4-t-butyl-1-cyclohexanol | 20 g | C(C)(C)(C)C1CCC(CC1)O | C10H20O
reactant | KHSO4 | 17 g | OS(=O)(=O)[O-].[K+]
reactant | ethylacetate KHSO4 | C(C)OC(C)=O.OS(=O)(=O)[O-].[K+]
product | 4-t-butyl-1-cyclohexene | C(C)(C)(C)C1CC=CCC1 | C10H18
